US08470831B2
A solution (E)-3-(3-acetoxy-4-fluoro-phenyl)-acrylic acid (0.17 g, 0.76 mmol) and thionyl chloride (0.069 mL, 0.95 mmol) in dry THF (2 mL) was stirred at 55° C. for 3 hrs. Then a further aliquot of thionyl chloride (0.008 mL, 0.11 mmol) was added and the mixture was stirred at reflux temperature for additional 1.5 hrs. After cooling to about 35° C., a solution of 3-chloro-aniline (0.204 mL, 1.90 mmol) dry THF (0.5 mL) was added dropwise. After stirring at RT for 16 hrs, the reaction mixture was diluted with DCM and washed with water, aqueous hydrochloric acid, and brine. The organic layer was then dried over sodium sulphate and evaporated. The resulting raw material was taken up without further purification with THF (2 mL), and a 3N methanolic solution of hydrochloric acid (4 mL-12 mmols) was added to the so obtained solution. The resulting mixture was stirred at RT for 16 hrs, concentrated under reduced pressure, taken up with solvent an re-evaporated (3 times with MeOH and once with acetone) to give a light yellow residue that was sequentially triturated with toluene, ethyl ether and dichloromethane. After the last filtration and drying, 75 mg of the title (E)-N-(3-chloro-phenyl)-3-(4-fluoro-3-hydroxy-phenyl)-acrylamide were obtained, as a light yellow powder.

reactant | (E)-3-(3-acetoxy-4-fluoro-phenyl)-acrylic acid | 0.76 mmol, 0.17 g | C(C)(=O)OC=1C=C(C=CC1F)/C=C/C(=O)O | C11H9FO4
reactant | thionyl chloride | 0.95 mmol, 0.069 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 0.11 mmol, 0.008 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloro-aniline | 1.90 mmol, 0.204 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (E)-N-(3-chloro-phenyl)-3-(4-fluoro-3-hydroxy-phenyl)-acrylamide | 75 mg | ClC=1C=C(C=CC1)NC(\C=C\C1=CC(=C(C=C1)F)O)=O | C15H11ClFNO2
